US06824890B2
Use of tetrakis(4-bromophenyl)silane (Si(C6H4Br)4) gives access to structural analogs containing a silicon atom at the tetrahedral junction. Thus, reaction of Si(C6H4Br)4 with excess styrene gives tetrastilbenylsilane (Si(STB)4) in 52% yield using Pd(OAc)2 under phase transfer conditions. Similarly, (Si(C6H4Br)4) and 4,4′-tert-butylvinylstilbene yields tetrakis(4-tert-butylstyrylstilbenyl)silane (Si(tBuSSB)4) in 40% yield.

reactant | Si(C6H4Br)4 | [Si](C1(=CC=CC=C1)Br)(C1(=CC=CC=C1)Br)(C1(=CC=CC=C1)Br)C1(=CC=CC=C1)Br | C24H20Br4Si
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | tetrastilbenylsilane | 52% yield | C1(=C(C=CC=C1)[Si](C1=C(C=CC=C1)C=CC1=CC=CC=C1)(C1=C(C=CC=C1)C=CC1=CC=CC=C1)C1=C(C=CC=C1)C=CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C56H44Si
